US07642264B2
5-{3-[4-(3,4-Dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-phenyl}-pyridin-2-ylamine
The title compound was prepared from 2-(3-bromo-phenyl)-4-(3,4-dichloro-phenyl)-6-methyl-pyrimidine (example E.62) (0.2 g, 0.5 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.14 g, 0.65 mmol) according to the general procedure VI. Obtained as an off-white solid (0.11 g, 54%). MS (ISP) 407.4 [(M+H)+]; mp 170.5° C.

reactant | 2-(3-bromo-phenyl)-4-(3,4-dichloro-phenyl)-6-methyl-pyrimidine | 0.5 mmol, 0.2 g | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C | C17H11BrCl2N2
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.65 mmol, 0.14 g | NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H17BN2O2
product | 5-{3-[4-(3,4-Dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-phenyl}-pyridin-2-ylamine | ClC=1C=C(C=CC1Cl)C1=NC(=NC(=C1)C)C=1C=C(C=CC1)C=1C=CC(=NC1)N | C22H16Cl2N4
